************************************************************************
* auCdl Netlist:
* 
* Library Name:  ece720t7
* Top Cell Name: low_swing_rx
* View Name:     schematic
* Netlisted on:  Dec  7 20:48:06 2024
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: ece720t7
* Cell Name:    low_swing_rx
* View Name:    schematic
************************************************************************

.SUBCKT low_swing_rx i o vdd vss
*.PININFO i:I vdd:I vss:I o:O
MM0 o net10 vdd vdd pch l=60n w=120.0n m=6
MM1 o net10 vss vss nch l=60n w=120.0n m=3
MM2 net10 i vss vss nch_hvt l=60n w=120.0n m=3
MM3 net10 i vdd vdd pch_hvt l=60n w=120.0n m=6
.ENDS

