************************************************************************
* auCdl Netlist:
* 
* Library Name:  ece720t7
* Top Cell Name: low_swing_tx
* View Name:     schematic
* Netlisted on:  Dec  7 20:48:05 2024
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: ece720t7
* Cell Name:    low_swing_tx
* View Name:    schematic
************************************************************************

.SUBCKT low_swing_tx c i vdd vss
*.PININFO i:I vdd:I vss:I c:O
MM8 c net19 vss vss nch l=60n w=120.0n m=1
MM3 net17 net16 vss vss nch l=60n w=120.0n m=1
MM2 net16 net14 vss vss nch l=490.0n w=120.0n m=5
MM1 net14 net19 vss vss nch l=490.0n w=120.0n m=5
MM0 net19 i vss vss nch l=60n w=120.0n m=1
MM10 net33 net19 vdd vdd pch l=60n w=120.0n m=10
MM9 c net17 net33 vdd pch l=60n w=120.0n m=10
MM7 net17 net16 vdd vdd pch l=60n w=120.0n m=2
MM6 net16 net14 vdd vdd pch l=490.0n w=120.0n m=10
MM5 net14 net19 vdd vdd pch l=490.0n w=120.0n m=10
MM4 net19 i vdd vdd pch l=60n w=120.0n m=2
.ENDS

